US07745490B2
A suspension of 3-methoxy-4-nitro-N-(4-methanesulfonylamino-3-methoxyphenyl)benzamide (2.03 g) in methanol (50 ml) and ethyl acetate (50 ml) was stirred under hydrogen with palladium on carbon (10%, 50 mg) for 18 hours. The solvents were removed in vacuo to give a brown gum. The residue was dissolved in pyridine (5 ml) and cooled to 0° C. when methanesulfonyl chloride (1 ml) was added, the mixture was kept at 0° C. for a further 2 hours then brought to R.T. for 1 h. The mixture was poured onto ice (50 g) and hydrochloric acid (3M, 50 g), the resultant brown solid filtered and washed with water to give 4-methanesulfonylamino-3-methoxy-N-(4-methanesulfonylamino-3-methoxyphenyl)benzamide (2.1 g, 100%) as a pale brown solid.

reactant | 3-methoxy-4-nitro-N-(4-methanesulfonylamino-3-methoxyphenyl)benzamide | 2.03 g | COC=1C=C(C(=O)NC2=CC(=C(C=C2)NS(=O)(=O)C)OC)C=CC1[N+](=O)[O-] | C16H17N3O7S
reactant | methanesulfonyl chloride | 1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 3M, 50 g | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-methanesulfonylamino-3-methoxy-N-(4-methanesulfonylamino-3-methoxyphenyl)benzamide | 2.1 g, 100% | CS(=O)(=O)NC1=C(C=C(C(=O)NC2=CC(=C(C=C2)NS(=O)(=O)C)OC)C=C1)OC | C17H21N3O7S2
